* hist_h2_g4_p2_30cm_loss5 / Xyce refspice
Vstim in_src 0 PWL(0.000000000e+00 0.0000
+ 2.000000000e-09 0.0000
+ 4.000000000e-09 0.0000
+ 6.000000000e-09 0.0000
+ 8.000000000e-09 0.0000
+ 8.200000000e-09 3.3000
+ 1.000000000e-08 3.3000
+ 1.200000000e-08 3.3000
+ 1.220000000e-08 0.0000
+ 1.400000000e-08 0.0000
+ 1.600000000e-08 0.0000
+ 1.800000000e-08 0.0000
+ 2.000000000e-08 0.0000
+ 2.020000000e-08 3.3000
+ 2.200000000e-08 3.3000
+ 2.400000000e-08 3.3000
+ 2.420000000e-08 0.0000
+ 2.600000000e-08 0.0000
+ 2.800000000e-08 0.0000
+ 3.000000000e-08 0.0000
+ 3.200000000e-08 0.0000)
Rin    in_src  in_dig  1

Vdd_ref  vdd_ref_src  0  DC 3.3
Voe_ref  oe_ref_src   0  DC 3.3
Rvdd_ref vdd_ref_src  vdd_ref  1
Roe_ref  oe_ref_src   oe_ref   1
Cdec_ref vdd_ref      0        10p

.subckt SPICE_BUF in oe out in_sense vdd vss
.include '../../../../../models/hspice_ngspice.mod'
.include '../../../../../models/io_buf.sp'
.ends SPICE_BUF

XREF in_dig oe_ref pad_ref in_sense_ref vdd_ref 0 SPICE_BUF
RCH_TX  pad_ref tx_out 1u
* Generated 10-section RLGC ladder for xyce
* length_scale=3, loss_scale=5
* section_length_scale=3 cm-equivalent sections
* nominal one-way delay=2.076 ns
RCH1   tx_out   s1a      0.75
LCH1   s1a      s1b      1.038000000e-08
CCH1   s1b      0        4.152000000e-12
RGCH1   s1b      0        66666.6667
RCH2   s1b      s2a      0.75
LCH2   s2a      s2b      1.038000000e-08
CCH2   s2b      0        4.152000000e-12
RGCH2   s2b      0        66666.6667
RCH3   s2b      s3a      0.75
LCH3   s3a      s3b      1.038000000e-08
CCH3   s3b      0        4.152000000e-12
RGCH3   s3b      0        66666.6667
RCH4   s3b      s4a      0.75
LCH4   s4a      s4b      1.038000000e-08
CCH4   s4b      0        4.152000000e-12
RGCH4   s4b      0        66666.6667
RCH5   s4b      s5a      0.75
LCH5   s5a      s5b      1.038000000e-08
CCH5   s5b      0        4.152000000e-12
RGCH5   s5b      0        66666.6667
RCH6   s5b      s6a      0.75
LCH6   s6a      s6b      1.038000000e-08
CCH6   s6b      0        4.152000000e-12
RGCH6   s6b      0        66666.6667
RCH7   s6b      s7a      0.75
LCH7   s7a      s7b      1.038000000e-08
CCH7   s7b      0        4.152000000e-12
RGCH7   s7b      0        66666.6667
RCH8   s7b      s8a      0.75
LCH8   s8a      s8b      1.038000000e-08
CCH8   s8b      0        4.152000000e-12
RGCH8   s8b      0        66666.6667
RCH9   s8b      s9a      0.75
LCH9   s9a      s9b      1.038000000e-08
CCH9   s9b      0        4.152000000e-12
RGCH9   s9b      0        66666.6667
RCH10  s9b      s10a     0.75
LCH10  s10a     n10b     1.038000000e-08
CCH10  n10b     0        4.152000000e-12
RGCH10  n10b     0        66666.6667
RTERM   n10b 0 50

.ic V(pad_ref)=0 V(tx_out)=0 V(n10b)=0
.options output initial_interval=10p
.tran 1.000000000e-11 3.200000000e-08 uic
.print tran format=csv time V(in_dig) V(pad_ref) V(tx_out) V(n10b)
.end
